US09145407B2
5-Chloro-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3-thiazol-4-ylbenzenesulfonamide
A mixture of 5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenol (Preparation 9, 2.81 g, 10.9 mmol), tert-butyl[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate (Preparation 4, 5.59 g, 13.6 mmol) and potassium carbonate (4.51 g, 32.6 mmol) in dimethylsulfoxide (20 mL) was heated at 75° C. for 24 hours. The reaction mixture was cooled to ambient temperature, diluted with water, neutralized with saturated aqueous ammonium chloride, then extracted with ethyl acetate (×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via automated silica gel flash chromatography using two runs, (10% to 100% ethyl acetate in hexanes gradient elution for run 1, and 0% to 10% methanol in dichloromethane gradient elution for run 2) to afford the title compound as a brown solid. (2.42 g, 41%)

reactant | 5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenol | 10.9 mmol, 2.81 g | FC=1C(=CC(=C(C1)O)C1=CN=NC=C1)C(F)(F)F | C11H6F4N2O
reactant | tert-butyl[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 13.6 mmol, 5.59 g | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)F)F)=O | C14H13ClF2N2O4S2
reactant | potassium carbonate | 32.6 mmol, 4.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-Chloro-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3-thiazol-4-ylbenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC1=C(C=C(C(=C1)F)C(F)(F)F)C1=CN=NC=C1 | C20H10ClF5N4O3S2
